US05006548
Methyl 2-[3-(2-thienyl)acrylamido]benzoate
To a suspension of 2-[3-(2-thienyl)acrylamido]benzoic acid (273 mg, 1 mmol) in dry acetone (2 ml) were added potassium carbonate (194 mg, 1.4 mmol) and dry dimethylformamide (1 ml). The mixture was treated with methyl iodide (199 mg, 1.4 mmol) and dry dimethylformamide (2 ml) and stirred at room temperature for 3 hours. The reaction mixture was poured into ice water, the precipitated solid was collected on a filter by suction, dried, and recrystallized from the mixed solvent of methanol and water to give pale yellow crystals of the desired compound (213 mg, yield, 74%). m.p., 126°-127° C.

reactant | 2-[3-(2-thienyl)acrylamido]benzoic acid | 1 mmol, 273 mg | S1C(=CC=C1)C=CC(=O)NC1=C(C(=O)O)C=CC=C1 | C14H11NO3S
reactant | potassium carbonate | 1.4 mmol, 194 mg | C([O-])([O-])=O.[K+].[K+]
reactant | dimethylformamide | 1 ml | CN(C=O)C | C3H7NO
reactant | methyl iodide | 1.4 mmol, 199 mg | CI | CH3I
reactant | dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
solvent | acetone | 2 ml | CC(=O)C | C3H6O
product | Methyl 2-[3-(2-thienyl)acrylamido]benzoate | 213 mg, 74% | S1C(=CC=C1)C=CC(=O)NC1=C(C(=O)OC)C=CC=C1 | C15H13NO3S
